US04812570
A mixture of 4-[2-(6-methyl-2-pyridyl)ethoxy]benzaldehyde (1.21 g), 2,4-thiazolidinedione (0.59 g), ethanol (50 ml) and piperidine (0.33 g) was heated under reflux for 16 hours. The reaction mixture was poured into ice-water and acidified with acetic acid. The resulting crystals were collected by filtration to give 5-{4-[2-(6-methyl-2-pyridyl)ethoxy]benzylidene}-2,4-thiazolidinedione. Yield: 1.34 g (78.5%). Recrystallization from methanol gave pale yellow prisms. m.p.: 180.5°-182° C.

reactant | 4-[2-(6-methyl-2-pyridyl)ethoxy]benzaldehyde | 1.21 g | CC1=CC=CC(=N1)CCOC1=CC=C(C=O)C=C1 | C15H15NO2
reactant | 2,4-thiazolidinedione | 0.59 g | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | ethanol | 50 ml | C(C)O | C2H6O
reactant | piperidine | 0.33 g | N1CCCCC1 | C5H11N
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-{4-[2-(6-methyl-2-pyridyl)ethoxy]benzylidene}-2,4-thiazolidinedione | CC1=CC=CC(=N1)CCOC1=CC=C(C=C2C(NC(S2)=O)=O)C=C1 | C18H16N2O3S
